US05827849
1-[trans-4-[2-(Methoxycarbonyl)ethyl]cyclohexyl]-3-(7-benzyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one
1.5 g of 1-[trans-4-[2-(methoxycarbonyl)ethyl]cyclohexyl]-3-(6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one, 480 mg of benzyl chloride, 520 mg of N-ethyldiisopropylamine and 100 mg of sodium iodide are heated under reflux in 20 ml of acetonitrile for 1 hour. The mixture is cooled, and the solid is filtered off with suction and purified by chromatography on an alumina column with methylene chloride/methanol (99:1).

reactant | 1-[trans-4-[2-(methoxycarbonyl)ethyl]cyclohexyl]-3-(6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one | 1.5 g | COC(=O)CC[C@@H]1CC[C@H](CC1)N1C(N(CC1)C=1C=NC2=C(CCNCC2)N1)=O | C21H31N5O3
reactant | benzyl chloride | 480 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | N-ethyldiisopropylamine | 520 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium iodide | 100 mg | [I-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[trans-4-[2-(Methoxycarbonyl)ethyl]cyclohexyl]-3-(7-benzyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-yl)imidazolidin-2-one | COC(=O)CC[C@@H]1CC[C@H](CC1)N1C(N(CC1)C=1C=NC2=C(CCN(CC2)CC2=CC=CC=C2)N1)=O | C28H37N5O3
